US09085555B2
B. 1-(2-Benzyloxy-acetyl)-1H-indole-3-carboxylic acid
To a solution of 1-(2-benzyloxy-acetyl)-1H-indole-3-carbaldehyde (1.53 g, 5.22 mmol) in a mixture of THF (80 mL) and t-butanol (24 mL). A 2 M 2-methyl-2-butene solution in THF (104 mL, 209 mmol) was added, followed by a water (20 mL) solution of NaClO2 (80%, 5.9 g, 52.2 mmol) and NaH2PO4 (5 g, 41.7 mmol). The resulting yellow solution was stirred at RT for 2 h. The solvents were concentrated and the aqueous layer was filtered and the resulting precipitate was washed with Et2O to give the desired compound. LC/MS: 310.1 [M−H]−, 332.0 [M+Na]+, 308.0 [M−H]−, 617.0 [2M−H]−; tR (HPLC conditions a): 3.62 min.

reactant | 1-(2-benzyloxy-acetyl)-1H-indole-3-carbaldehyde | 5.22 mmol, 1.53 g | C(C1=CC=CC=C1)OCC(=O)N1C=C(C2=CC=CC=C12)C=O | C18H15NO3
reactant | 2-methyl-2-butene | 2 M | CC(C)=CC | C5H10
reactant | water | 20 mL | O | H2O
reactant | NaClO2 | 52.2 mmol, 5.9 g | [O-]Cl=O.[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | t-butanol | 24 mL | C(C)(C)(C)O | C4H10O
solvent | THF | 209 mmol, 104 mL | C1CCOC1 | C4H8O
product | 1-(2-Benzyloxy-acetyl)-1H-indole-3-carboxylic acid | C(C1=CC=CC=C1)OCC(=O)N1C=C(C2=CC=CC=C12)C(=O)O | C18H15NO4
